US07968573B2
A mixture of 0.86 g of 2-[4-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrrol-2-yl]-6-chloro-8-methyl-4H-3,1-benzoxazine-4-one, 0.11 g of methylhydrazine and 15 ml of tetrahydrofuran was stirred at room temperature for 2 hours. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over sodium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel chromatography to obtain 0.17 g of 4-bromo-N-[4-chloro-2-(N-methylhydrazinocarbonyl)-6-methylphenyl]-1-(3-chloro-2-pyridinyl)-1H-pyrrole-2-carboxamide of the formula:

reactant | 2-[4-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrrol-2-yl]-6-chloro-8-methyl-4H-3,1-benzoxazine-4-one | 0.86 g | BrC=1C=C(N(C1)C1=NC=CC=C1Cl)C1=NC2=C(C(O1)=O)C=C(C=C2C)Cl | C18H10BrCl2N3O2
reactant | methylhydrazine | 0.11 g | CNN | CH6N2
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 4-bromo-N-[4-chloro-2-(N-methylhydrazinocarbonyl)-6-methylphenyl]-1-(3-chloro-2-pyridinyl)-1H-pyrrole-2-carboxamide | 0.17 g | BrC=1C=C(N(C1)C1=NC=CC=C1Cl)C(=O)NC1=C(C=C(C=C1C)Cl)C(=O)N(N)C | C19H16BrCl2N5O2
